US04652556
Preparation of 2-Methyl-2-(n-butylsulfonamido)propionitrile
To a stirred mixture of 8.4 g (0.1 mole) 2-amino-2-methyl-propionitrile and 12.2 g (0.1 mole) 4-dimethylaminopyridine in 125 ml chloroform, 15.7 g (0.1 mole) 1-butanesulfonyl chloride in 25 ml chloroform were added dropwise over 20 minutes, with evolution of heat and separation of solids. The reaction mixture was refluxed 2.5 hours. After cooling to room temperature, the reaction mixture was washed with 25 ml concentrated hydrochloric acid which had been diluted with 25 ml water. The layers were phase separated. The organic layer was washed twice with 50 ml ice water, dried over magnesium sulfate and stripped to give 8.0 g of the above-identified product, as a dark red oil.

reactant | 2-amino-2-methyl-propionitrile | 0.1 mole, 8.4 g | NC(C#N)(C)C | C4H8N2
reactant | 1-butanesulfonyl chloride | 0.1 mole, 15.7 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
catalyst | 4-dimethylaminopyridine | 0.1 mole, 12.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 125 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Methyl-2-(n-butylsulfonamido)propionitrile | 8.0 g | CC(C#N)(C)NS(=O)(=O)CCCC | C8H16N2O2S
